US07875645B2
d) Rac-(2-Chloro-6-ethyl-phenyl)-(1H-imidazol-2-yl)-methanol
To a solution of 1.60 ml (9.79 mmol) 1-(diethoxymethyl)imidazole in 6 ml tetrahydrofuran at −78° C. was added dropwise 6.67 ml (10.7 mmol) of a 1.6 M solution of n-butyllithium in hexane. The resulting solution of 2-(1-diethoxymethyl-1H-imidazol-2-yl)-lithium was stirred at −78° C., and then added dropwise to a solution of 1.50 g (8.90 mmol) 2-chloro-6-ethyl-benzaldehyde in 6 ml tetrahydrofuran at 0° C. The reaction mixture was then stirred at 0° C. for 30 min and at room temperature for 1 h, before being quenched by dropwise addition of 1 M aqueous hydrochloric acid. The mixture was made basic by addition of aqueous sodium bicarbonbate solution and diluted with ethyl acetate. The phases were separated and the organic phase was washed with saturated brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 2.02 g (96%) of the title compound as a yellow oil which was used in the next step without further purification.

reactant | 1-(diethoxymethyl)imidazole | 9.79 mmol, 1.60 ml | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-chloro-6-ethyl-benzaldehyde | 8.90 mmol, 1.50 g | ClC1=C(C=O)C(=CC=C1)CC | C9H9ClO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | Rac-(2-Chloro-6-ethyl-phenyl)-(1H-imidazol-2-yl)-methanol | 2.02 g, 96% | ClC1=C(C(=CC=C1)CC)C(O)C=1NC=CN1 | C12H13ClN2O
